US09024027B2
To a solution of tert-butyl 2-(5-(N-(2-(dimethylamino)ethyl)-methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (300 mg, 0.705 mmol) in dioxane (8 ml), 4M HCl in dioxane (1.763 ml, 7.05 mmol) was added, and the mixture was heated under microwave irradiation at 100° C. for 2 hours. The volatiles were removed under vacuum and the crude was purified by trituration with Et2O affording after filtration 2-(5-(N-(2-(dimethylamino)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetic acid hydrochloride (250 mg, 0.616 mmol, 87% yield), MS/ESI+ 370.0 [MH]+).

reactant | tert-butyl 2-(5-(N-(2-(dimethylamino)ethyl)-methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 0.705 mmol, 300 mg | CN(CCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O)C | C19H27N3O6S
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 7.05 mmol, 1.763 ml | O1CCOCC1 | C4H8O2
product | 2-(5-(N-(2-(dimethylamino)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetic acid hydrochloride | 0.616 mmol, 250 mg, 87% yield | Cl.CN(CCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)O)=O)C | InChI=1S/C15H19N3O6S.ClH/c1-16(2)6-7-18(25(3,23)24)10-4-5-11-12(8-10)15(22)17(14(11)21)9-13(19)20;/h4-5,8H,6-7,9H2,1-3H3,(H,19,20);1H
